US05446187
Acetoxyacetyl chloride (0.324 ml) is dropped into a solution of 4-amino-1-hydroxybutane-1,1-diphosphonic acid (500 mg) in water (5 ml) and1N NaOH (8 ml), simultaneously adding 1N NaOH (3 ml) to maintain pH between11 and 12. When the additions are completed, the reaction mixture is stirred at room temperature for 2 hours, then it is diluted with DMF: a precipitate separates which is recovered by centrifugation and purified byredissolution in water (3 ml) and reprecipitated with acetone (30 ml), to give 720 mg of N-(hydroxyacetyl)-4-amino-1-hydroxybutane-1,1-diphosphonic acid trisodium salt; m.p. >260°

reactant | Acetoxyacetyl chloride | 0.324 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | 4-amino-1-hydroxybutane-1,1-diphosphonic acid | 500 mg | NCCCC(P(O)(=O)O)(P(O)(=O)O)O | C4H13NO7P2
reactant | NaOH | 8 ml | [OH-].[Na+]
reactant | NaOH | 1N, 3 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(hydroxyacetyl)-4-amino-1-hydroxybutane-1,1-diphosphonic acid trisodium salt | 720 mg | [Na+].[Na+].[Na+].OCC(=O)NCCCC(P([O-])(=O)[O-])(P(O)(=O)[O-])O | InChI=1S/C6H15NO9P2.3Na/c8-4-5(9)7-3-1-2-6(10,17(11,12)13)18(14,15)16;;;/h8,10H,1-4H2,(H,7,9)(H2,11,12,13)(H2,14,15,16);;;/q;3*+1/p-3
